US05332741
Under argon, 2 g (12.03 mmol) of 8-thiochromanol are dissolved in 15 cm3 of DMF. 5 g (36.09 mmol) of potassium carbonate and a catalytic amount of potassium iodide are added. Then 5.45 g (72.18 mmol) of chloroacetonitrile dissolved in 5 cm3 of dimethylformamide (DMF) are added dropwise. The mixture is heated at 60° C. for 4 hours, and then the solvent is evaporated off. The residue is taken up in H2O and extracted with methylene chloride and then dried over MgSO4. After evaporation, the product is purified over a silica column. Eluant: methanol/CH2Cl2 1: 99. 2.44 g of 2-(thiochroman-8-yl-oxy)acetonitrile are obtained (melting point: 66° C.).

reactant | 8-thiochromanol | 12.03 mmol, 2 g | S1CCCC2=CC=CC(=C12)O | C9H10OS
reactant | potassium carbonate | 36.09 mmol, 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | chloroacetonitrile | 72.18 mmol, 5.45 g | ClCC#N | C2H2ClN
solvent | DMF | 15 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 cm3 | CN(C=O)C | C3H7NO
product | 2-(thiochroman-8-yl-oxy)acetonitrile | 2.44 g | S1CCCC2=CC=CC(=C12)OCC#N | C11H11NOS
